US05124350
2,4-Dihydroxy-3-(2-propenyl)benzamide
Methyl 2,4-dihydroxy-3-(2-propenyl)benzoate (4.4 g) was added to a mixture of about 10 to 15 ml of saturated ammonium chloride solution and 2 to 3 ml of ethanol. The reaction mixture was stirred overnight at 50° C. The reaction mixture was extracted five times with ethyl acetate, and the organic layer was concentrated under vacuum. The product was crystallized and recrystallized from chloroform. Subsequent chromatography of the precipitated product on a 25 g silica gel column with 40% ethyl acetate/hexane as eluant gave the pure product.

reactant | Methyl 2,4-dihydroxy-3-(2-propenyl)benzoate | 4.4 g | OC1=C(C(=O)OC)C=CC(=C1CC=C)O | C11H12O4
reactant | ammonium chloride | about 10 to 15 ml | [Cl-].[NH4+]
solvent | ethanol | 2 to 3 ml | C(C)O | C2H6O
product | 2,4-Dihydroxy-3-(2-propenyl)benzamide | OC1=C(C(=O)N)C=CC(=C1CC=C)O | C10H11NO3
